Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Opiods / albuterol / Atrovent / Statins-Hmg-Coa Reductase 
Inhibitors / tramadol
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
cardiac catheterization

 
History of Present Illness:
___ female with hx CAD s/p cath ___ c/b LCx 
perforation, HTN, DM2 (diet-controlled), HL, GERD who presented 
to ___ on ___ with intermittent chest pain and 
transferred to ___ for consideration of repeat cath.  
 Patient was in usual state of health until ___ in the evening 
when she had sudden onset of abdominal cramping and dull 
substernal chest pressure associated with weakness, diaphoresis, 
and dyspnea. At the time, her BP was found to be 200/98 by wrist 
cuff at home. She took NTG x3 with some relief and was able to 
get to sleep.  
 On ___, she had chest pressure again in the morning 
and presented to ___. At ___, she had no EKG 
changes and negative troponins. The case was discussed with her 
outpatient cardiologist who recommended transfer to ___ for 
possible repeat cardiac cath.
 In the ___ at ___ initial vitals were: T 98.7, HR 58, BP 
138/75, RR 18, O2 97% RA  
 On the floor, patient reported feeling better with chest pain 
down to ___ with no dyspnea.  
 ROS:
 Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope or presyncope. Denies 
exertional buttock or calf pain.  
 On further review of systems, denies any prior history of 
stroke, TIA, deep venous thrombosis, pulmonary embolism, 
bleeding at the time of surgery, myalgias, joint pains, cough, 
hemoptysis, black stools or red stools. Denies recent fevers, 
chills or rigors. All of the other review of systems were 
negative.  
 
Past Medical History:
1. CARDIAC RISK FACTORS: +hypertension, +dyslipidemia, +diabetes 
(type 2)  
 2. CARDIAC HISTORY: CAD s/p LCx perforation on cath in ___  

 - CABG: None  
 - PERCUTANEOUS CORONARY INTERVENTIONS: PTCA of LCx c/b 
perforation ___  
 - PACING/ICD: None  
 3. OTHER PAST MEDICAL HISTORY:  
 - CAD  
 - Diabetes  
 - Hypertension  
 - Dyslipidemia  
 - hx TIA  
 - b/l Carpal tunnel syndrome  
 - hysterectomy  
 - appendectomy  
 - tonsillectomy  
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death.
 
Physical Exam:
PHYSICAL EXAM ON ADMISSION
============================  
 VS: T=98.3 BP=153/69 HR=52 RR=17 O2 sat=99% RA  
 GENERAL: WDWN adult female in NAD. Oriented x3. Mood, affect 
appropriate.  
 HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

 NECK: Supple with no JVD  
 CARDIAC: RR, normal S1, S2. No murmurs/rubs/gallops.  
 LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
 ABDOMEN: Soft, NTND. No HSM or tenderness.  
 EXTREMITIES: No c/c/e. No femoral bruits.  
 SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
 PULSES: Distal pulses palpable and symmetric  

PHYSICAL EXAM ON DISCHARGE
==========================
Vitals: 98.1 PO  139 / 60 L Lying   58  18  98 RA 
I 460 / O 500
General: well nourished white F, pleasant and cooperative, in 
NAD, sleeping comfortably in bed 
HEENT: NC/AT, neck supple 
On exam ___ ___ patient has white-appearing scale on tongue
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present
Ext: Warm, well perfused, no clubbing, cyanosis or edema. 
Palpable pulse R 2+, difficult to appreciate L pedal pulse but 
plan to repeat Doppler.  
Skin: R groin clean/dry intact, no bruit, no ecchymosis, no 
drainage or blood noted. as noted above pulse intact R foot, 
very mild tenderness to palpation.
Neuro: CN II-XII intact grossly. Moving all extremities
Psych: pleasant and cooperative, mood and affect appropriate
 
Pertinent Results:
LABS ON ADMISSION
=================

___ 05:43PM BLOOD WBC-4.4 RBC-4.18 Hgb-13.5 Hct-39.7 MCV-95 
MCH-32.3* MCHC-34.0 RDW-12.8 RDWSD-43.9 Plt ___
___ 05:43PM BLOOD ___ PTT-30.6 ___
___ 05:43PM BLOOD Glucose-88 UreaN-9 Creat-0.7 Na-134 K-3.8 
Cl-100 HCO3-23 AnGap-15
___ 05:43PM BLOOD cTropnT-<0.01
___ 09:41PM BLOOD cTropnT-<0.01
___ 07:36AM BLOOD CK-MB-2 cTropnT-<0.01
___ 07:36AM BLOOD Albumin-4.3 Calcium-9.7 Phos-4.1 Mg-2.2

PERTINENT LABS
==============

___ 07:36AM BLOOD WBC-3.6* RBC-4.31 Hgb-13.7 Hct-40.9 
MCV-95 MCH-31.8 MCHC-33.5 RDW-12.8 RDWSD-44.9 Plt ___
___ 08:05AM BLOOD WBC-4.3 RBC-4.39 Hgb-13.9 Hct-41.6 MCV-95 
MCH-31.7 MCHC-33.4 RDW-12.9 RDWSD-44.6 Plt ___
___ 07:36AM BLOOD ___ PTT-31.6 ___
___ 07:36AM BLOOD Glucose-103* UreaN-12 Creat-0.8 Na-134 
K-4.1 Cl-99 HCO3-24 AnGap-15
___ 08:05AM BLOOD Glucose-107* UreaN-11 Creat-0.8 Na-133 
K-4.1 Cl-99 HCO3-23 AnGap-15
___ 07:36AM BLOOD ALT-18 AST-22 LD(LDH)-216 CK(CPK)-78 
AlkPhos-98 TotBili-0.7
___ 08:05AM BLOOD Calcium-9.3 Phos-3.6 Mg-2.2

IMAGING
=========
none

MICROBIOLOGY
==============
none

PROCEDURE REPORT
================
CATH REPORT ___
The LCA injections showed no significant difference compared 
with prior. The LMCA had no angiographically apparent CAD. The 
LAD had proximal 40% plaque into the mid segment. There was
mild plaquing elsewhere in this vessel. The Cx had a mid vessel 
20% lesion at the takeoff of a small OM which was subtotally 
occluded filling via collaterals from the LAD and was the prior 
site of PTCA. Therewere robust collaterals filling the distal 
PDA, PL and distal RCA. The RCA had diffuse severe disease with 
serial 60-90% lesions followed by total occlusion distally

Impressions:
1. Chronically occluded OM and RCA.
2. No significant restenosis of the Cx PTCA site.

 
Brief Hospital Course:
___ female with hx CAD s/p cath ___ (mid LCx 70% 
lesion, RCA severe diffuse disease, 40% ___ LAD) c/b LCx 
perforation, HTN, DM2 (diet-controlled), HL, TIA (on Plavix), DM 
(diet controlled), GERD who presented to ___ with chest 
pain and now transferred to ___ for consideration of repeat 
cath for unstable angina. Troponins were negative x2 at ___ 
Main Campus and EKG did not show any acute changes. Cardiac 
catheterization was performed and showed chronically occluded OM 
and RCA but no significant restenosis of the Cx PTCA site. Her 
blood pressures remained well controlled in the hospital 
(130s-140s systolic.) She was discharged home with stable vital 
signs.

 # Chest pain: History concerning for unstable angina given 
substernal chest pressure at rest associated with diaphoresis, 
weakness, and nausea. No troponin elevation (negative x2 at 
___ Main) and no EKG changes. Patient's primary cardiologist 
Dr. ___ repeat cath at ___ for assessment. 
Cath at last ___ admission notable for Cx with mid vessel 70% 
lesion at the takeoff of a small OM which was subtotally 
occluded filling via collaterals from the LAD. There were robust 
collaterals filling the distal PDA, PL and distal RCA. The RCA 
had diffuse severe disease with serial 60-90% lesions followed 
by total occlusion distally. Balloon angioplasty but no stent. 
Last cath c/b LCx perforation. Cath on ___ showed chronically 
occluded OM and RCA, with no significant restenosis of the Cx 
PTCA site. Patient without chest pain on AM of discharge. 
Cardiology recommending further medical management and 
outpatient f/u with Dr. ___. Isosorbide 
mononitrate XR changed to 60 mg daily and metoprolol succinate 
XL changed to 25 mg daily. Continued home atorvastatin 80 mg. 
 
# HTN: Hospitalized at ___ with hyponatremia in early 
___, at which time HCTZ was discontinued. Imdur was started 
after previous ___ admission.  BP well controlled since 
arrival to ___ Main. 130s-150s systolic on arrival to floor, 
but now ___ systolic; has been bradycardic but 
asymptomatic. Metoprolol succinate and isosorbide mononitrate 
changed at this admission as per above. Continued home qunapril 
and amlodipine.

#hyponatremia: prior hospitalization at ___, ___ 
reportedly stopped.  Resolved at this time.
  
CHRONIC ISSUES:
========================
# HLD: Per OMR history tab, last atorvastatin refill for 40mg 
daily but discharged on atorvastatin 80mg in ___ patient 
states this is error and has been taking 80 mg daily. Discharged 
on 80 mg daily.
 
# Diabetes, type 2: diet-controlled, A1C 5.8% in ___.  

#TIA: patient with past history of TIA in ___, on 
Plavix. Per patient prior evaluation for carotid bruit. Neuro 
exam benign, no focal deficits at admission. Plavix continued.

# GERD: On pantoprazole 20mg at home. Recommend clarification of 
correct dosing as outpatient.

#Oral thrush: patient started on Nystatin swish and swallow. 
Recommend follow up and further workup as outpatient.  

TRANSITIONAL ISSUES
=====================
- please ensure patient follows up with Cardiology as outpatient 
for chest pain
- metoprolol succinate XL changed from 50 mg daily to 25 mg 
daily as inpatient given bradycardia to ___ and well controlled 
BP
- isosorbide mononitrate extended release changed from 30 mg 
daily to 60 mg daily as inpatient 
- please continue to monitor patient's BPs and adjust outpatient 
medication regimen as necessary
- patient was started on Nystatin swish and swallow for oral 
thrush as inpatient. Please evaluate as outpatient to ensure 
resolution of symptoms. Please consider further evaluation such 
as screening HIV testing as outpatient.
- Please clarify correct doses of atorvastatin and pantoprazole. 
Patient is being discharged on her recorded home dose of 
atorvastatin 80 mg daily and pantoprazole 20 mg daily but please 
evaluate to ensure that this is the desired therapeutic regimen. 
Please evaluate patient for side effects of 80 mg atorvastatin.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. amLODIPine 5 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 40 mg PO QPM 
4. Clopidogrel 75 mg PO DAILY 
5. Metoprolol Succinate XL 50 mg PO DAILY 
6. Pantoprazole 20 mg PO Q24H 
7. TraZODone 50 mg PO QHS:PRN insomnia 
8. Quinapril 40 mg PO DAILY 
9. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
10. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
11. Calcium Carbonate Dose is Unknown  PO Frequency is Unknown 
12. Fish Oil (Omega 3) Dose is Unknown  PO Frequency is Unknown 
13. Magnesium Oxide Dose is Unknown  PO Frequency is Unknown 
14. Multivitamins 1 TAB PO DAILY 
15. Vitamin D Dose is Unknown  PO DAILY 

 
Discharge Medications:
1.  Nystatin Oral Suspension 5 mL PO QID thrush 
RX *nystatin 100,000 unit/mL 5 mL by mouth 4 times daily 
Refills:*0 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
3.  Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
RX *isosorbide mononitrate 60 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
4.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
5.  amLODIPine 5 mg PO DAILY  
6.  Aspirin 81 mg PO DAILY  
7.  Calcium Carbonate    mg PO DAILY  
8.  Clopidogrel 75 mg PO DAILY  
9.  Fish Oil (Omega 3)    mg PO DAILY  
10.  Magnesium Oxide    mg PO DAILY  
11.  Multivitamins 1 TAB PO DAILY  
12.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain  
13.  Pantoprazole 20 mg PO Q24H  
14.  Quinapril 40 mg PO DAILY  
15.  TraZODone 50 mg PO QHS:PRN insomnia  
16.  Vitamin D    UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
- unstable angina

Secondary:
- coronary artery disease
- hypertension
- hyperlipidemia
- diabetes mellitus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You came to the hospital because your doctor was concerned about 
your chest pain and high blood pressures. Your blood pressures 
were improved while you were in the hospital. You underwent 
another heart catheterization which showed that the previous 
blockages in your heart had remained the same, and that there 
were no new blockages in your heart.  We watched you overnight 
after the procedure and you continued to do well without more 
chest pain.

We changed some of your home medications while you were in the 
hospital. Please take all of these medications as prescribed and 
make sure you follow up with your primary care doctor about the 
doses of these medications when you leave the hospital.

Please follow up with your cardiologist and Primary Care Doctor 
after you leave the hospital.

It was a pleasure caring for you at ___.

Sincerely,
Your ___ Medicine Team
 
Followup Instructions:
___